US07012075B2
To N,N-diisopropylamine (2.6 mL, 18.4 mmol) in dry THF (40 mL) under dry nitrogen and at 0° C. was added n-BuLi (2.5 M, 7.35 mL, 18.3 mmol) dropwise and the reaction was stirred at rt for 20 min. The reaction mixture was again cooled to 0° C. and 3-(2-bromophenyl)-propionic acid (1.9 g, 8.29 mmol, dissolved in dry THF, 40 mL) was added dropwise via cannula and then warmed to rt and stirred for 15 min. The reaction mixture was again cooled to 0° C. and 1-iodo-2-methyl propane (1.5 mL, 13.26 mmol) was added dropwise. The reaction was then warmed to rt and stirred overnight. Aqueous 10% HCl was added carefully followed by brine and the product was extracted with EtOAc (3×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex/AcOH, 4/6/0.5%) to afford 2-(2-bromobenzyl)-4-methylpentanoic acid.

reactant | N,N-diisopropylamine | 18.4 mmol, 2.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 18.3 mmol, 2.5 M, 7.35 mL | [Li]CCCC
reactant | 3-(2-bromophenyl)-propionic acid | 8.29 mmol, 40 mL, 1.9 g | BrC1=C(C=CC=C1)CCC(=O)O | C9H9BrO2
reactant | 1-iodo-2-methyl propane | 13.26 mmol, 1.5 mL | ICC(C)C | C4H9I
reactant | HCl | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-(2-bromobenzyl)-4-methylpentanoic acid | BrC1=C(CC(C(=O)O)CC(C)C)C=CC=C1 | C13H17BrO2
